US04399210
30 ml of water was added to 24.6 g of 5-norbornene-2,3-dicarboxylic acid anhydride, and while cooling the reaction temperature below 20° C., 10.6 g of sodium carbonate and then 13.9 g of hydroxylamine hydrochloride were added. The mixture was reacted at room temperature for 1 hour and then reacted at a temperature of 60° to 70° C. for 1 hour. After cooling to room temperature, N-hydroxy-5-norbornene-2,3-dicarboxylic acid imide thus formed was collected by filtration.

reactant | 5-norbornene-2,3-dicarboxylic acid anhydride | 24.6 g | C12C3C(C(C=C1)C2)C(=O)OC3=O | C9H8O3
reactant | sodium carbonate | 10.6 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydroxylamine hydrochloride | 13.9 g | Cl.NO
solvent | water | 30 ml | O | H2O
product | N-hydroxy-5-norbornene-2,3-dicarboxylic acid imide | ON=C(O)C1C2C=CC(C1C(=O)O)C2 | C9H11NO4
